* source EP
V_V1         IN 0  
+SIN 0 2.4 10000 0 0 0
R_R6         0 OUT  6.75  
R_R3         C N01610  1k  
R_R4         N01079 E  0.5k  
Q_Q1         C N02650 E BC368 
R_R5         0 N01079  0.5k  
R_R2         N02650 N00897  326594  
V_V3         N00897 0 10Vdc
R_R1         0 N02650  360k  
C_C3         IN N02650  1u  
V_V4         N01610 0 10Vdc
C_C4         N01079 OUT  1u  
