* source SWING
R_R6         0 OUT  6.75  
R_R3         N01612 N01610  1k  
R_R4         OUT N01258  0.5k  
V_V5         IN 0  
+SIN 0 20m 10k 0 0 0
Q_Q1         N01612 IN N01258 BC368 
R_R5         0 OUT  0.5k  
R_R2         IN N00897  326594  
V_V3         N00897 0 10Vdc
R_R1         0 IN  360k  
V_V4         N01610 0 10Vdc
